US07943645B2
Description 108. (RS)-1-(4-Fluorophenyl)-4-(1-{1-[5-(4-fluorophenyl)-2-methylthiazol-4-yl]-methanoyl}-piperidin-2-yl)-butane-1,3-dione
(1-{-[5-(4-fluorophenyl)-2-methylthiazol-4-yl]-methanoyl}-piperidin-2-yl)-acetic acid (0.500 g) was dissolved in dry tetrahydrofuran (15 ml) and cooled to −20° C. under an atmosphere of argon. Triethylamine (0.231 ml) and isobutylchloroformate (0.215 ml) were added and the solution was stirred at −20° C. for 1 hour. The solution was then cooled to −78° C. B. A solution of 4′-fluoroacetophenone (0.229 g) in THF (15 ml) was cooled to 20° C. under an atmosphere of argon. A solution of lithium diisopropylamide (0.830 ml; 2M solution in THF) was added and stirring continued at −20° C. for 30 minutes. The solution was then cooled to −78° C. C. The solution from part B was added to the stirred solution of part A by way of a cannula. Stirring was continued at −78° C. under an atmosphere of argon for 2 hours before being quenched by the addition of saturated ammonium chloride solution. After reaching room temperature, the reaction solution was partitioned between ethyl acetate and water. The organic solution was washed with brine, dried (MgSO4) and evaporated. The residue was chromatographed over silica gel, eluting with a gradient of 10 to 75% ethyl acetate in hexane. The title compound was obtained as a colourless oil (0.560 g) mass spectrum (API+) 483 [MH+], (API−) 481 [(M-H)−] C26H24F2N2O3S requires 482.

reactant | (1-{-[5-(4-fluorophenyl)-2-methylthiazol-4-yl]-methanoyl}-piperidin-2-yl)-acetic acid | 0.500 g | FC1=CC=C(C=C1)C1=C(N=C(S1)C)C(=O)N1C(CCCC1)CC(=O)O | C18H19FN2O3S
reactant | isobutylchloroformate | 0.215 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | 4′-fluoroacetophenone | 0.229 g | FC1=CC=C(C=C1)C(C)=O | C8H7FO
reactant | lithium diisopropylamide | 2M, 0.830 ml | C(C)(C)[N-]C(C)C.[Li+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | Triethylamine | 0.231 ml | C(C)N(CC)CC | C6H15N
product | (RS)-1-(4-Fluorophenyl)-4-(1-{1-[5-(4-fluorophenyl)-2-methylthiazol-4-yl]-methanoyl}-piperidin-2-yl)-butane-1,3-dione | FC1=CC=C(C=C1)C(CC(CC1N(CCCC1)C(=O)C=1N=C(SC1C1=CC=C(C=C1)F)C)=O)=O | C26H24F2N2O3S
